US09120749B2
Cyclopropyl{6-(3,5-dichloro-4-hydroxyphenyl)-4-[4-((4-methylpiperazin-1-yl)methyl)phenylamino]quinolin-3-yl}methanone
Following general procedure D, {6-bromo-4-[4-((4-methylpiperazin-1-yl)methyl)phenylamino]quinolin-3-yl}(cyclopropyl)methanone (42 mg, 0.088 mmol) was reacted with 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (38 mg, 0.132 mmol) to afford the desired product (41 mg, 83%) as a yellow solid: 1H NMR (300 MHz, CD3OD) δ 9.27 (s, 1H), 7.93-7.85 (m, 2H), 7.74 (s, 1H), 7.37 (d, J=8.1 Hz, 2H), 7.19-7.10 (m, 4H), 3.61 (s, 2H), 2.95-2.88 (m, 1H), 2.74-2.68 (m, 4H), 2.57-2.46 (m, 7H), 1.23-1.10 (m, 4H); ESI MS m/z 561 [C31H30Cl2N4O2+H]+; HPLC 94.4% (AUC), tR=8.57 min.

reactant | {6-bromo-4-[4-((4-methylpiperazin-1-yl)methyl)phenylamino]quinolin-3-yl}(cyclopropyl)methanone | 0.088 mmol, 42 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC1=CC=C(C=C1)CN1CCN(CC1)C | C25H27BrN4O
reactant | 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.132 mmol, 38 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)Cl)O | C12H15BCl2O3
product | Cyclopropyl{6-(3,5-dichloro-4-hydroxyphenyl)-4-[4-((4-methylpiperazin-1-yl)methyl)phenylamino]quinolin-3-yl}methanone | 41 mg, 83% | C1(CC1)C(=O)C=1C=NC2=CC=C(C=C2C1NC1=CC=C(C=C1)CN1CCN(CC1)C)C1=CC(=C(C(=C1)Cl)O)Cl | C31H30Cl2N4O2
